US06391877B1
3,4-Dihydroquinoline-1-carboxylic Acid[6-(2-trifluoromethylbenzenesulfonylamino)-hexyl]amide
To a solution of N-(6-Aminohexyl)-2-trifluoromethylbenzene sulfonamide Hydrochloride (0.1 g, 0.27 mmol) dimethyl formamide (3 mL) and triethylamine (0.1 g, 1 mmol) was added 3,4-Dihydro-2H-quinoline-1-carboxylic acid 4-nitrophenyl ester (0.09 g, 0.3 mmol) and the reaction mixture was stirred at room temperature for 4 h. Solvent was evaporated and purification by preparative TLC afford the titled compound as an oil (0.08 g, 61%).

reactant | N-(6-Aminohexyl)-2-trifluoromethylbenzene sulfonamide Hydrochloride | 0.27 mmol, 3 mL, 0.1 g | Cl.NCCCCCCNS(=O)(=O)C1=C(C=CC=C1)C(F)(F)F
reactant | triethylamine | 1 mmol, 0.1 g | C(C)N(CC)CC | C6H15N
reactant | 3,4-Dihydro-2H-quinoline-1-carboxylic acid 4-nitrophenyl ester | 0.3 mmol, 0.09 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1CCCC2=CC=CC=C12 | C16H14N2O4
product | 3,4-Dihydroquinoline-1-carboxylic Acid[6-(2-trifluoromethylbenzenesulfonylamino)-hexyl]amide | 0.08 g, 61% | FC(C1=C(C=CC=C1)S(=O)(=O)NCCCCCCNC(=O)N1CCCC2=CC=CC=C12)(F)F | C23H28F3N3O3S
